US07582633B2
Step 1: Ethyl (5-{2-[4-(5-bromo-2-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetate
The title compound was prepared in a similar manner as that described for Example 3 (step 4) from ethyl {5-[2-(4-hydroxypiperidin-1-yl)pyrimidin-5-yl]-2H-tetrazol-2-yl}acetate, 5-bromo-2-fluorophenol, triphenylphosphine and di-tert-butyl azodicarboxylate.

reactant | ethyl {5-[2-(4-hydroxypiperidin-1-yl)pyrimidin-5-yl]-2H-tetrazol-2-yl}acetate | OC1CCN(CC1)C1=NC=C(C=N1)C=1N=NN(N1)CC(=O)OCC | C14H19N7O3
reactant | 5-bromo-2-fluorophenol | BrC=1C=CC(=C(C1)O)F | C6H4BrFO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
product | Ethyl (5-{2-[4-(5-bromo-2-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetate | BrC=1C=CC(=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(N2)CC(=O)OCC)C1)F | C20H21BrFN7O3
